US07041696B2
Preparation of 3-allyloxycarbonylamino-4-oxo-butyric acid tert-butyl ester (102):
A solution of 3-allyloxycarbonylamino-N-methoxy-N-methyl-succinamic acid tert-butyl ester, 101, (24.3 g, 76.8 mmol) in THF (60 mL) is treated at −78° C. with lithium aluminum hydride (1 M in THF, 39 mL, 39 mmol) dissolved in ether (200 mL) over 5 minutes. After the consumption of starting material, the solution is cautiously quenched with 1.0 N HCl, washed with 1.0 N HCl (2×100 mL) and brine (1×150 mL). The organic layer is concentrated in vacuo to afford 18.2 g (91% yield) of the desired product as a clear oil. 1H-NMR, (300 MHz, CDCl3): δ 1.45 (s, 9H), 2.75–3.01 (m, 2H), 4.37–4.42 (m, 1H), 4.62–4.64 (d, J=5.4, 2H), 5.25–5.38 (m, 2H), 5.89–6.02 (m, 2H), 9.68 (s, 1H); MS (ESI): m/e=258.11 (M+H).

reactant | 3-allyloxycarbonylamino-N-methoxy-N-methyl-succinamic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NC(=O)OCC=C)=O | C14H24N2O6
reactant | lithium aluminum hydride | 39 mmol, 1 M, 39 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-allyloxycarbonylamino-4-oxo-butyric acid tert-butyl ester | 18.2 g, 91% yield | C(C)(C)(C)OC(CC(C=O)NC(=O)OCC=C)=O | C12H19NO5
